US06376490B1
6,7-Dichloro-2,3-dimethoxy-5-[5-phenyl-1H-1,2,3-triazol-4-yl]quinoxaline
A mixture of 6,7-dichloro-2,3-dimethoxy-5-(2-phenylethynyl)quinoxaline (2.0 g, 5.57 mmol) and trimethylsilyl azide (20 mL) was heated at 170° C. in a sealed vessel for 18 hours. After cooling, water (20 mL) was added followed by saturated aqueous sodium hydrogen carbonate solution (50 mL) and the mixture extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel, by gradient elution using dichloromethane:methanol (1:0 changing to 98:2, by volume) to afford the title compound (1.3 g, 58%) as a brown foam.

reactant | 6,7-dichloro-2,3-dimethoxy-5-(2-phenylethynyl)quinoxaline | 5.57 mmol, 2.0 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C#CC1=CC=CC=C1 | C18H12Cl2N2O2
reactant | trimethylsilyl azide | 20 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | water | 20 mL | O | H2O
product | 6,7-Dichloro-2,3-dimethoxy-5-[5-phenyl-1H-1,2,3-triazol-4-yl]quinoxaline | 1.3 g, 58% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C=1N=NNC1C1=CC=CC=C1 | C18H13Cl2N5O2
